US04065491
8.6 g. of 37% formaline (= 0.1 moles of formaldehyde) are added to a stirred solution of 4.0 g. (0.1 moles) of sodium hydroxide and 7.5 g. (0.1 moles) of glycine in 40 ml. of water. After 10 minutes of stirring at 0° to 5° C, 11 g. (0.1 moles) of dimethyl phosphite are added, and stirring is continued for 2 hours at 90° to 100° C. The mixture is acidified with 60 ml. of concentrated hydrochloric acid, and stirred for further 2 hours at 90° to 100° C. The obtained solution is evaporated to dryness under reduced pressure (80 to 100 mmHg.). The oily residue is boiled with 200 ml. of 90% ethanol, the mixture is cooled, the product is filtered off, and dissolved in 30 to 35 ml. of hot water. The solution is decolorized, filtered, and the product is precipitated from the filtrate with 45 ml. of acetone. 11.0-11.3 g. (65-67%) of N-phosphonomethyl-glycine are obtained: m.p.: 224°-225° C (with decomposition).

reactant | formaline | 0.1 moles | C=O | CH2O
reactant | sodium hydroxide | 0.1 moles | [OH-].[Na+]
reactant | glycine | 0.1 moles | NCC(=O)O | C2H5NO2
reactant | dimethyl phosphite | 0.1 moles | P(OC)(OC)[O-]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N-phosphonomethyl-glycine | 65-67% | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
